US08119617B2
To a mixture of 25.7 mmol tert.butanol and 20 ml of CH2Cl2 are added 10.3 mmol of ClSO2NCO and the mixture obtained is stirred at rt for 45 minutes. The mixture obtained is slowly added to a solution of 5.14 mmol of (3-nitro-phenylamino)-acetic acid ethyl ester and 15.4 mmol of triethylamine in 50 ml of CH2Cl2 at 0° and the mixture obtained is stirred at 0° for 2.5 hours. The mixture obtained is diluted with CH2Cl2 and the dilution is extracted with HCl (0.1N). The organic layer obtained is dried, and solvent is evaporated. (3-Nitro-phenyl-N-(t-butylaminosulfonyl)amino)-acetic acid ethyl ester is obtained.

reactant | tert.butanol | 25.7 mmol | C(C)(C)(C)O | C4H10O
reactant | ClSO2NCO | 10.3 mmol | ClS(=O)(=O)N=C=O | CClNO3S
reactant | (3-nitro-phenylamino)-acetic acid ethyl ester | 5.14 mmol | C(C)OC(CNC1=CC(=CC=C1)[N+](=O)[O-])=O | C10H12N2O4
reactant | triethylamine | 15.4 mmol | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | (3-Nitro-phenyl-N-(t-butylaminosulfonyl)amino)-acetic acid ethyl ester | C(C)OC(CN(S(=O)(=O)NC(C)(C)C)C1=CC(=CC=C1)[N+](=O)[O-])=O | C14H21N3O6S
